US08003811B2
Step C: (3S,3aR,6S,6aR)-6-(tetrahydro-2H-pyran-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol
To a solution of (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diol (0.57 g, 3.90 mmol) and 3,4-dihydro-2H-pyran (0.41 g, 4.88 mmol) in DCM (15 ml), toluene-4-solfonic acid monohydrate (0.0074 g, 0.039 mmol) was added and the mixture was stirred at room temperature for 3 hrs. Then the reaction mixture was washed with a saturated solution of NaHCO3 and brine. The organic extract was dried over sodium sulfate and the solvent, was evaporated under reduced pressure. The residue was purified by flash chromatography (Biotage SP1, EtOAc/n-hexane from 30 to 100%), affording the title product as a white solid.

reactant | (3S,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diol | 3.90 mmol, 0.57 g | O1[C@H]2[C@@H]([C@H](C1)O)OC[C@@H]2O | C6H10O4
reactant | 3,4-dihydro-2H-pyran | 4.88 mmol, 0.41 g | O1CCCC=C1 | C5H8O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | (3S,3aR,6S,6aR)-6-(tetrahydro-2H-pyran-2-yloxy)hexahydrofuro[3,2-b]furan-3-ol | O1C(CCCC1)O[C@H]1CO[C@H]2[C@@H]1OC[C@@H]2O | C11H18O5
